US06849657B2
A solution of {(Z)-4-[(R)-2-oxo-5-((E)-3-oxo-oct-1-enyl)-pyrrolidin-1-yl]-but-2-enyloxy}-acetic acid ethyl ester (0.7 g, 1.97 mmol) in 15 mL of ethanol was stirred at 0° C., and 0.082 g NaBH4 was added. The reaction was allowed to come to room temperature and stirred for 7 hours, followed by addition of a solution of hydrochloric acid in methanol (2 M, 1-2 mL) and extraction with ethyl acetate. The organic phase was dried, concentrated, purified via chromatography to yield {(Z)-4-[(R)-2-((E)-3-hydroxy-oct-1-enyl)-5-oxo-pyrrolidin-1-yl]-but-2-enyloxy}-acetic acid ethyl ester, and taken directly on to the next step.

reactant | {(Z)-4-[(R)-2-oxo-5-((E)-3-oxo-oct-1-enyl)-pyrrolidin-1-yl]-but-2-enyloxy}-acetic acid ethyl ester | 1.97 mmol, 0.7 g | C(C)OC(COC\C=C/CN1C(CC[C@@H]1\C=C\C(CCCCC)=O)=O)=O | C20H31NO5
reactant | NaBH4 | 0.082 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | methanol | 2 M, 1-2 mL | CO | CH4O
product | {(Z)-4-[(R)-2-((E)-3-hydroxy-oct-1-enyl)-5-oxo-pyrrolidin-1-yl]-but-2-enyloxy}-acetic acid ethyl ester | C(C)OC(COC\C=C/CN1[C@H](CCC1=O)\C=C\C(CCCCC)O)=O | C20H33NO5
